US09284323B2
A solution of ethyl 2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate (16.3 g, 40 mmol) in toluene (250 mL) cooled to an internal temperature of −40° C. was treated with (R)-(+)-2-methyl-CBS-oxazaborolidine (5.6 g, 20.1 mmol). Freshly distilled catecholborane (4.7 mL, 44.2 mmol) was diluted with toluene (20 mL) and the solution added dropwise to the reaction over 30 minutes to produce a clear yellow solution. After an additional 15 minutes, saturated Na2CO3 (300 mL) was added and the reaction allowed to warm to room temperature over 2.5 hours. The aqueous layer is extracted with EtOAc and the combined organics are washed with saturated Na2CO3 (3×300 mL), saturated NH4Cl (300 mL) and brine. Following drying over anhydrous MgSO4 and concentration in vacuo, the residue was purified using Isco silica gel column chromatography (10-75% EtOAc/hex) to produce 15.1 g of (S)-ethyl 2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate that was determined to be 66% enantiomeric excess by HPLC analysis on a Chiralpak AS-H column with a 80:20 heptane/EtOH isocratic method. LCMS-ESI+ (m/z): [M+Na]+ calcd for C17H17F3O6SNa: 429.3. found: 429.3.

reactant | ethyl 2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | 40 mmol, 16.3 g | CC=1C(=C(C2=CC=C(C=C2C1)C)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O | C17H15F3O6S
reactant | (R)-(+)-2-methyl-CBS-oxazaborolidine | 20.1 mmol, 5.6 g | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | catecholborane | 44.2 mmol, 4.7 mL | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | Na2CO3 | 300 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-ethyl 2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | 15.1 g | CC=1C(=C(C2=CC=C(C=C2C1)C)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)O | C17H17F3O6S
